US04067996
11.45 g (0.096 mol) of freshly distilled thionyl chloride are added to a suspension of 28.65 g (0.077 mol) of 2-(4-chloro-phenyl)-2-(4-fluoro-3-trifluoromethylphenoxy)-acetic acid in 35 ml of dry chloroform. The mixture is stirred for 30 minutes at ambient temperature and is then heated at the reflux temperature until all the acid has dissolved (about 6 hours). The solution is evaporated to dryness under reduced pressure and 2-(4-chlorophenyl)-2-(4-fluoro-3-trifluoromethyl-phenoxy)-acetyl chloride is obtained in the form of an oil, which is used without further purification for the next stage of the synthesis.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-chloro-phenyl)-2-(4-fluoro-3-trifluoromethylphenoxy)-acetic acid | 0.077 mol, 28.65 g | ClC1=CC=C(C=C1)C(C(=O)O)OC1=CC(=C(C=C1)F)C(F)(F)F | C15H9ClF4O3
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-chlorophenyl)-2-(4-fluoro-3-trifluoromethyl-phenoxy)-acetyl chloride | ClC1=CC=C(C=C1)C(C(=O)Cl)OC1=CC(=C(C=C1)F)C(F)(F)F | C15H8Cl2F4O2
